US03994941
In the manner given in Example 1, 8-trifluoromethyl-6-(o-chlorophenyl)-1-methyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine in xylene is heated with excess paraformaldehyde in a sealed, glass-lined vessel at 155°-160° C. to give 8-trifluoromethyl-1-(2-hydroxyethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-trifluoromethyl-6-(o-chlorophenyl)-1-methyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=C(C=CC=C3)Cl)C1)(F)F | C18H12ClF3N4
reactant | paraformaldehyde | C=O | CH2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 8-trifluoromethyl-1-(2-hydroxyethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)CCO)C3=C(C=CC=C3)Cl)C1)(F)F | C19H14ClF3N4O
